US08110585B2
ethyl 4-(hydroxymethyl)-2-methylpyrazolo[1,5-a]pyridine-3-carboxylate
To a solution of 1-amino-3-(hydroxymethyl)pyridinium 2,4-dinitrobenzenolate (200 g, 0.650 mol) in dimethylformamide (1.3 L) was added potassium carbonate (224 g, 1.62 mol). To the mixture was added ethyl 2-butynoate (72.8 g, 0.650 mol) at room temperature, and the mixture was stirred for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/3) to give the title compound (41.0 g, yield 27%).

reactant | 1-amino-3-(hydroxymethyl)pyridinium 2,4-dinitrobenzenolate | 0.650 mol, 200 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])[O-].N[N+]1=CC(=CC=C1)CO
reactant | potassium carbonate | 1.62 mol, 224 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-butynoate | 0.650 mol, 72.8 g | C(C#CC)(=O)OCC | C6H8O2
reactant | Water | O | H2O
solvent | dimethylformamide | 1.3 L | CN(C=O)C | C3H7NO
product | ethyl 4-(hydroxymethyl)-2-methylpyrazolo[1,5-a]pyridine-3-carboxylate | 41.0 g, yield 27% | OCC=1C=2N(C=CC1)N=C(C2C(=O)OCC)C | C12H14N2O3
